2169-06-10 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mrs. [**Known lastname 2232**] is a 64 yo female with HCV/EtOH cirrhosis,
   history of GIB and MGUS, admitted after fall with possible new T3 burst
   fracture found to have a Hct of 17.
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-6-9**] 03:00 PM
   Area edamatous post procedure
 ULTRASOUND - At [**2169-6-9**] 05:00 PM
   - thigh hematoma with transfusion of 2u prbc through left femoral
   (likely directly into left thigh) with Hct 17.5->15.8.  Then transfused
   2u prbc through peripheral and hct 15.8->17; two more units through
   peripheral iv and 17->28.
   - also got 4u ffp
   - pulled femoral line, held pressure for 25 mins, placed new PIV
   - vascular c/s -> RLE u/s showed right groin hematoma but neg for av
   fistula or aneurysm, recc'd supportive care
   - simultaneously consulted [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] from palliative care and
   vascular surgery. both parties in room at same time. family open to cmo
   but pt wants full code but also doesn't want treatment or to be
   disturbed.
   - OB brown positive
   - hepatology: not candidate for transplant
   - neuro [**Doctor First Name 458**]: place brace (done) x 8 wks and re-image, not surgical
   candidate
   - trauma surgery: logroll precautions
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-6-9**] 02:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-6-9**] 08:30 AM
   Pantoprazole (Protonix) - [**2169-6-9**] 07:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2169-6-10**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 89 (85 - 104) bpm
   BP: 95/41(55) {82/39(48) - 109/59(71)} mmHg
   RR: 9 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,451 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                  1,353 mL
                                                                     75 mL
   Blood products:
                                                                  3,098 mL
   Total out:
                                                                    440 mL
                                                                    170 mL
   Urine:
                                                                    440 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,011 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: right thigh tense, pulses palpable
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   44 K/uL
   5.3 g/dL
   77 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.8 mEq/L
   12 mg/dL
   104 mEq/L
   135 mEq/L
   27.8 %
   5.1 K/uL
        [image002.jpg]
                             [**2169-6-9**]  03:35 AM
                             [**2169-6-9**]  01:34 PM
                             [**2169-6-9**]  09:11 PM
                             [**2169-6-9**]  10:00 PM
   WBC
   5.1
   Hct
   15.8
   17.3
   27.8
   Plt
   69
   44
   Cr
   1.4
   1.4
   Glucose
   71
   77
   Other labs: PT / PTT / INR:18.3/53.5/1.7, ALT / AST:15/30, Alk Phos / T
   Bili:72/2.9, Albumin:1.4 g/dL, LDH:161 IU/L, Ca++:7.9 mg/dL, Mg++:2.6
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 2232**] is a 64 yo female with HCV/EtOH cirrhosis, history of GIB
   and MGUS, admitted after fall with possible new T3 burst fracture found
   to have a Hct of 17.
   # Anemia/Hct Drop: Patient has a history of GIB and rectal varices s/p
   TIPS and portal gastropathy now presenting with a Hct of 17, down from
   24.5 one month ago. Last EGD in [**2-19**] without varices.  Per ED report,
   patient was guaiac negative, although now patient is OB brown
   positive.  Hct initially didn
t bump with transfusion because of left
   thigh hematoma and bleeding into space but now stable at 27, s/p
   removal of left femoral CVL.  Vascular following and no evidence of
   fistula or aneurysm.
   - check hct [**Hospital1 **]
   - cont PPI
   - hepatology reccs, not planning on scoping
   - PICC line for access
   - Correct coagulopathy with FFP if rebleeds, goal INR <1.5
   - Serial exams to watch for compartment syndrome and worsening
   hematoma.
   # T3 Burst Fracture: Imaging shows no cord impingement. Per
   neurosurgery, not a candidate for surgical intervention, but patient
   should have a mini-TSLO brace and Q2 hour neuro checks.
   - clarify whether patient still needs log roll precautions
   - Q2 hour neuro checks
   - F/U neurosurgery and trauma surgery recs
   # Abdominal pain:  abdomen more tense this a.m. but positive bowel
   sounds, no peritoneal signs.  Would consider SBP given history of
   ascites versus bowel obstruction versus constipation.
   - pr bisacodyl
   - KUB
   - consider checking LFTs, lipase
   # Fall: History suggestive of mechanical fall.
   - Fall precautions
   - PT consult when stable
   # Cirrhosis: Secondary to EtOH and HCV. Patient is followed at liver
   center by Dr. [**Last Name (STitle) 2233**].
   - NGT
   - Restart lactulose. Continue rifaxamin and ursodiol.
   - Trend LFTs
   - Consult hepatology
   # CKD: At baseline
   - Continue to trend creatinine
   # Goals of care: Readdress goals of care with daughter and patient.
   Appreciate input of [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**]/palliative care.
   - family meeting
   FEN: NPO, replete as  necessary
   Prophylaxis: SCDS, PPI, cipro
   Access: PIV x1, femoral CVL
   Code: Full. Discussed with daughter and HCP, patient is full code with
   bridge to hospice.
   Communication: Patient and her daughter, [**Name (NI) 2228**] [**Name (NI) 9181**] (HCP):
   [**Telephone/Fax (1) 9182**]
   Disposition: ICU level of care.
   ICU Care
   Nutrition: aspiration risk based on CT chest [**Location (un) 308**], will obtain
   speech and swallow c/s
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-6-9**] 03:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-06-10 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: dementia, HepC and EtOH cirrhosis
   Fell at home, fractured vertebral body
   anemia with Hct 16
   transfused without increase in Hct initially
   leg hematoma
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-6-9**] 03:00 PM
   Area edamatous post procedure
 ULTRASOUND - At [**2169-6-9**] 05:00 PM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-6-9**] 02:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-6-9**] 08:30 AM
   Pantoprazole (Protonix) - [**2169-6-9**] 07:41 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-6-10**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 93 (85 - 104) bpm
   BP: 108/46(62) {82/39(48) - 109/59(71)} mmHg
   RR: 10 (7 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,451 mL
                                                                     82 mL
   PO:
             TF:
   IVF:
                                                                  1,353 mL
                                                                     82 mL
   Blood products:
                                                                  3,098 mL
   Total out:
                                                                    440 mL
                                                                    220 mL
   Urine:
                                                                    440 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,011 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Right thigh wrapped with ace, pulses present
   T and C spine brace on
   Rrr
   Lungs difficult to exam due to brace
   Abd
 guarding, bowel sounds present
   Extrem - edematous
   Labs / Radiology
   5.3 g/dL
   44 K/uL
   77 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.8 mEq/L
   12 mg/dL
   104 mEq/L
   135 mEq/L
   27.8 %
   5.1 K/uL
        [image002.jpg]
                             [**2169-6-9**]  03:35 AM
                             [**2169-6-9**]  01:34 PM
                             [**2169-6-9**]  09:11 PM
                             [**2169-6-9**]  10:00 PM
   WBC
   5.1
   Hct
   15.8
   17.3
   27.8
   Plt
   69
   44
   Cr
   1.4
   1.4
   Glucose
   71
   77
   Other labs: PT / PTT / INR:18.3/53.5/1.7, ALT / AST:15/30, Alk Phos / T
   Bili:72/2.9, Albumin:1.4 g/dL, LDH:161 IU/L, Ca++:7.9 mg/dL, Mg++:2.6
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS  - may need endoscopy though
   goals of care need to be sorted out, favor following her Hct and not
   pursuing scope at this time
   Thigh hematoma
 cont current care, follow pulses
 cirrhosis, encephalopathy
 awake, interactive, follow, cont
   lactulose
 may need NG tube
t-spine FRACTURE - cont immobilization, discuss plan with trauma/ortho
   Abd pain
 check KUB, follow exam, provide laxative
   Thrombocytopenia
 likely consumptive and cirrhosis, follow
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-6-9**] 03:14 PM
   Prophylaxis:
   DVT:  hold heparin, pneumoboot left leg
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full though focus will remain on comfort
   Disposition : transfer

2169-06-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2169-6-10**] 02:48 PM
 PAN CULTURE - At [**2169-6-10**] 08:30 PM
   - was called out, but tachy as well as bp drop and HCT drop; gave ivf
   and 2x prbc
   - lactate 2.1.
   - Tmax overnight to 100.8, pan-cultured.
   - NGT placed
   - Small BM yesterday
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-6-10**] 03:06 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-6-10**] 09:26 PM
   Morphine Sulfate - [**2169-6-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-6-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 118 (93 - 137) bpm
   BP: 101/56(66) {88/44(56) - 135/76(90)} mmHg
   RR: 12 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,744 mL
                                                                  1,186 mL
   PO:
                                                                    180 mL
           TF:
   IVF:
                                                                  2,316 mL
                                                                    583 mL
   Blood products:
                                                                    248 mL
                                                                    503 mL
   Total out:
                                                                    655 mL
                                                                    120 mL
   Urine:
                                                                    655 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,089 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, TTP throughout. No peritoneal signs
   Extremities: right thigh tense, pulses palpable
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   50 K/uL
   10.4 g/dL
   84 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.7 mEq/L
   17 mg/dL
   108 mEq/L
   138 mEq/L
   28.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2169-6-9**]  03:35 AM
                             [**2169-6-9**]  01:34 PM
                             [**2169-6-9**]  09:11 PM
                             [**2169-6-9**]  10:00 PM
                             [**2169-6-10**]  08:38 AM
                             [**2169-6-10**]  04:27 PM
                             [**2169-6-10**]  07:49 PM
                             [**2169-6-10**]  08:59 PM
                             [**2169-6-11**]  03:54 AM
   WBC
   5.1
   4.4
   6.9
   Hct
   15.8
   17.3
   27.8
   27.8
   26.2
   22.4
   28.7
   Plt
   69
   44
   51
   55
   50
   Cr
   1.4
   1.4
   1.4
   1.3
   1.4
   Glucose
   71
   77
   86
   74
   84
   Other labs: PT / PTT / INR:23.0/60.8/2.2, ALT / AST:15/30, Alk Phos / T
   Bili:72/2.9, Lactic Acid:2.1 mmol/L, Albumin:1.4 g/dL, LDH:161 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 2232**] is a 64 yo female with HCV/EtOH cirrhosis, history of GIB
   and MGUS, admitted after fall with possible new T3 burst fracture found
   to have a Hct of 17.
   # Tachycardia, hypotension, fever: Likely secondary to persistent
   anemia in setting of femoral CVL bleeding. Less likely to be PE given
   no hypoxia. Patient without leukocytosis, although Tmax to 100.8
   overnight suggesting possible infectious process. Patient also
   continues to be agitated and complain of pain, likely contributing to
   tachycardia.
   - UA and culture
   - Follow-up culture data
   - Q12H hct checks, transfuse for hct<21
   - Bolus 1L IVF
   - CXR
   # Anemia/Hct Drop: Patient has a history of GIB and rectal varices s/p
   TIPS and portal gastropathy now presenting with a Hct of 17, down from
   24.5 one month ago. Last EGD in [**2-19**] without varices.  Per ED report,
   patient was guaiac negative, although now patient is OB brown
   positive.  Hct initially didn
t bump with transfusion because of left
   thigh hematoma and bleeding into space but now stable at 27, s/p
   removal of left femoral CVL.  Vascular following and no evidence of
   fistula or aneurysm.
   - As above, CBC Q12H, transfuse for hct<21 or plt<50
   - Cont PPI [**Hospital1 **]
   - Follow-up hepatology recs if any. No plan on diagnostic or
   therapeutic intervention at this time.
   - PICC line for access
   - Correct coagulopathy with FFP if rebleeds, goal INR <1.5
   - Serial exams to watch for compartment syndrome and worsening
   hematoma.
   # T3 Burst Fracture: Imaging shows no cord impingement. Per
   neurosurgery, not a candidate for surgical intervention, but patient
   should have a mini-TSLO brace and Q2 hour neuro checks.
   - Clarify whether patient still needs log roll precautions
   - Q2 hour neuro checks
   - F/U neurosurgery and trauma surgery recs
   # Abdominal pain:  abdomen more tense this a.m. but positive bowel
   sounds, no peritoneal signs.  Would consider SBP given history of
   ascites versus bowel obstruction versus constipation. KUB negative for
   obstruction.
   - Bowel regimen
   # Fall: History suggestive of mechanical fall.
   - Fall precautions
   - PT consult when stable
   # Cirrhosis: Secondary to EtOH and HCV. Patient is followed at liver
   center by Dr. [**Last Name (STitle) 2233**].
   - Continue lactulose, rifaxamin, and ursodiol.
   - Continue cipro for SBP ppx.
   - Trend LFTs
   - Consult hepatology
   # CKD: At baseline
   - Continue to trend creatinine
   # Goals of care: Readdress goals of care with daughter and patient.
   Appreciate input of [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**]/palliative care.
   - family meeting
   FEN: Clears
 ADAT (low protein), replete as  necessary
   Prophylaxis: SCDS, PPI, cipro
   Access: PICC
   Code: DNR/DNI
   Communication: Patient and her daughter, [**Name (NI) 2228**] [**Name (NI) 9181**] (HCP):
   [**Telephone/Fax (1) 9182**]
   Disposition: Call out.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-6-10**] 02:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-06-11 07:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  tachycardia and febrile yesterday
   This morning, sleepy but hemodynamically stable
   Transfused last night for Hct fall from 28 to 22.
   24 Hour Events:
 PICC LINE - START [**2169-6-10**] 02:48 PM
 PAN CULTURE - At [**2169-6-10**] 08:30 PM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-6-10**] 03:06 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-6-10**] 09:26 PM
   Morphine Sulfate - [**2169-6-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-6-11**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 118 (93 - 137) bpm
   BP: 101/56(66) {88/44(56) - 135/76(90)} mmHg
   RR: 12 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,744 mL
                                                                  1,186 mL
   PO:
                                                                    180 mL
           TF:
   IVF:
                                                                  2,316 mL
                                                                    583 mL
   Blood products:
                                                                    248 mL
                                                                    503 mL
   Total out:
                                                                    655 mL
                                                                    120 mL
   Urine:
                                                                    655 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,089 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Sleepy, occasionally following commands, spinal brace on, coughing
   occasionally
   Difficult lung exam
   RRR
   Abd firm, tender similar to yesterday
   Extrem wrapped right thigh
   Labs / Radiology
   10.4 g/dL
   50 K/uL
   84 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.7 mEq/L
   17 mg/dL
   108 mEq/L
   138 mEq/L
   28.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2169-6-9**]  03:35 AM
                             [**2169-6-9**]  01:34 PM
                             [**2169-6-9**]  09:11 PM
                             [**2169-6-9**]  10:00 PM
                             [**2169-6-10**]  08:38 AM
                             [**2169-6-10**]  04:27 PM
                             [**2169-6-10**]  07:49 PM
                             [**2169-6-10**]  08:59 PM
                             [**2169-6-11**]  03:54 AM
   WBC
   5.1
   4.4
   6.9
   Hct
   15.8
   17.3
   27.8
   27.8
   26.2
   22.4
   28.7
   Plt
   69
   44
   51
   55
   50
   Cr
   1.4
   1.4
   1.4
   1.3
   1.4
   Glucose
   71
   77
   86
   74
   84
   Other labs: PT / PTT / INR:23.0/60.8/2.2, ALT / AST:15/30, Alk Phos / T
   Bili:72/2.9, Lactic Acid:2.1 mmol/L, Albumin:1.4 g/dL, LDH:161 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION, tachy, fever
 repeat cxr, check cdiff, continue
   prophylactic cipro
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) 2 units
   last night, Hct stable this morning, follow coags, CBC, continue to
   hold off on GI eval per family wishes
 t-spine FRACTURE
 in brace
 cirrhosis, encephalopathy
 cont rifax, lactulose, ursodiol
 COAGULOPATHY
 correct if Hct falls
   Hematoma
 continue to keep wrapped
   ICU Care
   Nutrition:  npo
   Glycemic Control:
   Lines:
   PICC Line - [**2169-6-10**] 02:48 PM
   Prophylaxis:
   DVT:  boot on left leg
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dnr/i
   Disposition : transfer